US08383635B2
[1-(methyloxy)ethylidene]propanedinitrile
To a 100 mL flask equipped with air stirrer and thermometer and distillation condensor were added malononitrile (9.1 g, 0.138 mol, triethyl orthoacetate (26.8 g, 0.165 mol) and glacial acidic acid (0.4 mL) sequentially, and the mixture was stirred and gently heated (90° C.) until the ethanol formed in the reaction began to distill off. When all the ethanol had distilled off, the reaction temperature was raised slowly from 90° C. to 140° C. for 30 min to ensure completion of the reaction. The reaction mixture was allowed to cool to 45° C. to solidify. The resulting solid mass was broken up under hexane (20 mL) and hexane was decanted off. The solid was washed with ethanol (50 mL) to afford a colorless crystal. The ethanol solution was concentrated and allowed to cool to room temperature. Then the crystal was filtered, washed with ethanol dried under vacuum (12.3 g, 65.9% yield).

reactant | malononitrile | C(CC#N)#N | C3H2N2
reactant | triethyl orthoacetate | 0.165 mol, 26.8 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | ethanol | C(C)O | C2H6O
product | [1-(methyloxy)ethylidene]propanedinitrile | 65.9% yield | COC(C)=C(C#N)C#N | C6H6N2O
